US06140352
N-Butyloxycarbonyl-4-(3-methyl-3-aminobutyl) benzoic acid piperidyl amide
To a flame dried flask under a nitrogen atmosphere was added N-butyloxycarbonyl-4-(3-methyl-3-aminobutyl) benzoic acid (500 mg), piperidine (0.161 mL, 1.0 eq.), 1-hydroxybenzotriazole (47 mg, 1.0 eq.), diisopropylethylamine (0.2 mL, 3.5 eq.), and 25 mL of methylene chloride. A solution of (dimethylaminopropyl)ethyl carbodiimide in 20 mL of methylene chloride was then added and the resulting solution was allowed to stir for 1 hour before diluting with ethyl acetate. This mixture was acidified with 10% aqueous citric acid. The organics were washed twice each with .saturated aqueous sodium bicarbonate and brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was taken up in ethyl acetate and was washed twice with 10% aqueous sodium bicarbonate, once with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to give the title compound.

reactant | N-butyloxycarbonyl-4-(3-methyl-3-aminobutyl) benzoic acid | 500 mg | C(CCC)OC(=O)NC(CCC1=CC=C(C(=O)O)C=C1)(C)C | C17H25NO4
reactant | piperidine | 0.161 mL, 1.0 eq. | N1CCCCC1 | C5H11N
reactant | 1-hydroxybenzotriazole | 47 mg, 1.0 eq. | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 0.2 mL, 3.5 eq. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (dimethylaminopropyl)ethyl carbodiimide | CN(C)CCCN=C=NCC | C8H17N3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | N-Butyloxycarbonyl-4-(3-methyl-3-aminobutyl) benzoic acid piperidyl amide | N1(CCCCC1)NC(C1=CC=C(C=C1)CCC(C)(NC(=O)OCCCC)C)=O | C22H35N3O3
